US05447957
b) 2-[2-[3-(4-Bromophenyl)ureido]-4-(trifluoromethyl)phenoxy]benzoic acid
Benzhydrol 2-[2-[3-(4-bromophenyl)ureido]-4-(trifluoromethyl)-phenoxy]benzoate (3.7 g, 5 mmol) was dissolved in ethyl acetate (125 mL) and was hydrogenated for 0.75 hour at 50 psi over 10% palladium on carbon (0.5 g). The catalyst was filtered off and the solvent evaporated to give the crude product which was purified by flash chromatography (silica gel, ethyl acetate/hexane/formic acid). Recrystallization from ethyl acetate/hexane gave the title compound as a white crystalline solid; mp 229°-231° C.

reactant | Benzhydrol 2-[2-[3-(4-bromophenyl)ureido]-4-(trifluoromethyl)-phenoxy]benzoate | 5 mmol, 3.7 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O.BrC1=CC=C(C=C1)NC(NC1=C(OC2=C(C(=O)[O-])C=CC=C2)C=CC(=C1)C(F)(F)F)=O
solvent | ethyl acetate | 125 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 2-[2-[3-(4-Bromophenyl)ureido]-4-(trifluoromethyl)phenoxy]benzoic acid | BrC1=CC=C(C=C1)NC(NC1=C(OC2=C(C(=O)O)C=CC=C2)C=CC(=C1)C(F)(F)F)=O | C21H14BrF3N2O4
